US05861401
Sodium hydride (60% dispersion in oil; 0.25 g) was added to a solution of 3-amino-6-chloro-5-methylpyridazine (0.36 g) in dry 1,2-dimethoxyethane (10 ml). When evolution of gas ceased, 5-dimethylamino-1-naphthalenesulphonyl chloride (0.67 g) was added and the reaction mixture was stirred for 45 minutes. 7% aqueous citric acid solution (10 ml) was added, the organic phase was separated and the aqueous layer was extracted with ethyl acetate (2×20 ml). The combined organic phases were washed with water (10 ml) and dried (MgSO4). Volatile material was removed by evaporation to give a gum which was triturated first with dichloromethane and then ether to give 5-dimethylamino-N-(6-chloro-5-methyl-3-pyridazinyl)-1-naphthalenesulphonamide (0.2 g), m.p. 110°-112° C.; 1H NMR (d6 -DMSO): 2.30 (s,3H), 2.8 (s,6H), 7.23 (d,1H), 7.52-7.7 (m,3H), 8.3-8.5 (m,3H); mass spectrum (+ve FAB, methanol/dichloromethane/NBA): 376 (M)+.

reactant | Sodium hydride | 0.25 g | [H-].[Na+]
reactant | 3-amino-6-chloro-5-methylpyridazine | 0.36 g | NC=1N=NC(=C(C1)C)Cl | C5H6ClN3
reactant | 5-dimethylamino-1-naphthalenesulphonyl chloride | 0.67 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | citric acid | 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 5-dimethylamino-N-(6-chloro-5-methyl-3-pyridazinyl)-1-naphthalenesulphonamide | 0.2 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1N=NC(=C(C1)C)Cl)C | C17H17ClN4O2S
